US06326369B1
2-(4-Benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylic acid
An aqueous sodium hydroxide solution (3 N, 0.204 ml, 0.612 mmols) was added to an ethanol (4 ml) solution of ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate (150 mg, 0.305 mmols), and heated under reflux for 6 hours. The reaction mixture was concentrated in vacuo, and was made acidic by adding 1 N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by recrystallization (from hexane-ethyl acetate) to obtain the entitled compound (108 mg) as crystals.

reactant | sodium hydroxide | 0.612 mmols, 3 N, 0.204 ml | [OH-].[Na+]
reactant | ethyl 2-(4-benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylate | 0.305 mmols, 150 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)OCC | C29H32O7
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 2-(4-Benzyloxyphenyl)-4,5,6,7-tetramethoxy-2-indancarboxylic acid | 108 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)C(=O)O | C27H28O7
